US06242443B1
7-Bromo-3-isopropylamino-6-trifluoromethyl-4H-1,2,4-benzothiadiazine 1,1-dioxide
A solution of 3-isopropylamino-6-trifluoromethyl-4H-1,2,4-benzothiadiazine 1,1-dioxide (307 mg; 1 mmol) in water (5 ml) was added 40% hydrobromic acid (0.44 ml; 3 mmol). The solution was then heated to 70° C. and 30% hydrogen peroxide (0.33 g; 3 mmol) was added. After 30 min the reaction mixture was cooled and extracted with ethyl acetate (20 ml) and purified by column chromatograpy (ethyl acetate:ethanol 9:1). Concentration of the appropiate fractions produced the title compound (22 mg); 1H-NMR (DMSO-d6) ppm; 7.60 (s, 1H), 7.10 (s, 1H), 6.65 (s, 1H), 3.95 (m, 1H) 1.11 (d, 6H).

reactant | 3-isopropylamino-6-trifluoromethyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | 1 mmol, 307 mg | C(C)(C)NC1=NS(C2=C(N1)C=C(C=C2)C(F)(F)F)(=O)=O | C11H12F3N3O2S
reactant | hydrobromic acid | 3 mmol, 0.44 ml | Br | BrH
reactant | hydrogen peroxide | 3 mmol, 0.33 g | OO | H2O2
solvent | water | 5 ml | O | H2O
product | 7-Bromo-3-isopropylamino-6-trifluoromethyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | 22 mg | BrC1=CC2=C(NC(=NS2(=O)=O)NC(C)C)C=C1C(F)(F)F | C11H11BrF3N3O2S
